US04459414
Tetrakis-(p-methoxyphenylthio)-phthalic acid N-methylimide
2 g (6.7 millimols) of tetrachlorophthalic acid N-methylimide, 4.23 g (30.15 millimols) of p-methoxythiophenol, 6.25 g (45.2 millimols) of potassium carbonate and 20 ml of tetrahydrofuran are stirred at 25° C. for 4 hours. The mixture is acidified with 2N HCl solution and extracted with methylene chloride. The extracts are dried over sodium sulfate and evaporated. After recrystallisation from toluene/cyclohexane, 4.68 g (98% of theory) of the title compound are obtained: melting point 168°-70° C.

reactant | tetrachlorophthalic acid N-methylimide | 6.7 millimols, 2 g | CN=C(C=1C(C(=O)O)=C(C(=C(C1Cl)Cl)Cl)Cl)O | C9H5Cl4NO3
reactant | p-methoxythiophenol | 30.15 millimols, 4.23 g | COC1=CC=C(C=C1)S | C7H8OS
reactant | potassium carbonate | 45.2 millimols, 6.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 2N | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Tetrakis-(p-methoxyphenylthio)-phthalic acid N-methylimide | CN=C(C=1C(C(=O)O)=C(C(=C(C1SC1=CC=C(C=C1)OC)SC1=CC=C(C=C1)OC)SC1=CC=C(C=C1)OC)SC1=CC=C(C=C1)OC)O | C37H33NO7S4
